US07754737B2
(R)-tert-butyl 3-((S)-1-(benzo[b]thiophen-2-yl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate (160 mg, 0.37 mmol) was dissolved in 1:1 2 N aq HCl solution/acetonitrile (50 mL). The mixture was stirred overnight at rt and neutralized with 5% aq NaOH. The acetonitrile was removed by evaporation. The aqueous residue was extracted by CH2Cl2 (2×40 mL). The combined organic layers were concentrated to afford (S)-1-(benzo[b]thiophen-2-yl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (102 mg, 83%) which was used without purification.

reactant | (R)-tert-butyl 3-((S)-1-(benzo[b]thiophen-2-yl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate | 0.37 mmol, 160 mg | S1C2=C(C=C1[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C=CC=C2 | C24H35NO4S
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 2 N | Cl | ClH
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (S)-1-(benzo[b]thiophen-2-yl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 102 mg, 83% | S1C2=C(C=C1[C@@](CCCCOC)(O)[C@H]1CNCCC1)C=CC=C2 | C19H27NO2S
